US04062978
To a stirred mixture of 4-(4-methoxyphenyl)-2-butanone (15.4 g.), benzoyl chloride (13 g.) and methylene chloride (250 ml) at 0° C was added portionwise aluminium chloride (23 g.) over a 20 minute period. The mixture was stirred a further 1 hour at room temperature and then poured onto ice and worked up in the usual way. Distillation of the product gave 4-(3-benzoyl-4-methoxyphenyl)-2-butanone (12 g.), b.p. 188° - 192° C (0.01 mm).

reactant | 4-(4-methoxyphenyl)-2-butanone | 15.4 g | COC1=CC=C(C=C1)CCC(C)=O | C11H14O2
reactant | benzoyl chloride | 13 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | aluminium chloride | 23 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
product | 4-(3-benzoyl-4-methoxyphenyl)-2-butanone | 12 g | C(C1=CC=CC=C1)(=O)C=1C=C(C=CC1OC)CCC(C)=O | C18H18O3
